US07713994B2
Using the procedure described for the preparation of 4-{[4(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-1,3-dioxo-1,2,3,4-tetrahyro-isoquinolin-6-yl)-carbamic acid 4-nitro-phenyl ester 5 g (26.0 mmol) of para-nitroanilin and 4-nitrophenyl chloroformate 14.6 g (72.4 mmol) were reacted to give (4-nitro-phenyl)-carbamic acid 4-nitro-phenyl ester, 11.0 g (100% yield) of yellow solid.

reactant | carbamic acid 4-nitro-phenyl ester | 26.0 mmol, 5 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(N)=O | C7H6N2O4
reactant | para-nitroanilin | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 4-nitrophenyl chloroformate | 72.4 mmol, 14.6 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | (4-nitro-phenyl)-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H9N3O6
